US04531001
2-(2-O-Acetyl-5-O-phosphono-β-D-ribofuranosyl)selenazole-4-carboxamide
2-(2-O-Acetyl-β-D-ribofuranosyl)selenazole-4-carboxamide is treated with 1 to 5 equivalents of phosphoryl chloride in the presence of triethylphosphate at 0 degrees C. After complete dissolution is obtained, the solution is poured over crushed ice and adjusted with sodium hydroxide solution to pH 7, extracted with chloroform, and placed on a column of ion exchange resin (Dowex AG 1X8, formate). The column is first washed with water, then the product is eluted with a gradient of water-formic acid. The fractions containing pure product are pooled and evaporated to dryness. The residue is recrystallized from ethanol-water to provide the free acid of the title compound as a crystalline solid.

reactant | 2-(2-O-Acetyl-β-D-ribofuranosyl)selenazole-4-carboxamide | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)C=1[Se]C=C(N1)C(=O)N | C11H14N2O6Se
reactant | phosphoryl chloride | 1 to 5 equivalents | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylphosphate | C(C)OP(=O)(OCC)OCC | C6H15O4P
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(2-O-Acetyl-5-O-phosphono-β-D-ribofuranosyl)selenazole-4-carboxamide | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1O)COP(=O)(O)O)C=1[Se]C=C(N1)C(=O)N | C11H15N2O9PSe
